US04725599
Allyl trans-2-[3-(6-chloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate
Under a nitrogen atmosphere in a flame dried flask and with magnetic stirring, a solution of 0.80 g (0.0043 mole) of 6-chlorothieno[3,2-d]pyrimidin-4(3H)-one, 3.52 ml of 1.22N sodium methoxide in methanol, and 20 ml of methanol was treated with 1.86 g (0.0056 mole) of allyl trans-3-methoxy-2-(3-bromo-2-oxopropyl)-1-piperidinecarboxylate. The reaction mixture was stirred overnight at room temperature, and was then evaporated under reduced pressure. The residue was taken up in 25 ml of 0.1N aqueous sodium hydroxide, and the resulting solution was extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate, filtered, and evaporated to afford a solid material which was chromatographed under moderate pressure ("flash" chromatography) on a column of silica gel (Woelm 32-63 micrometers, i.d. 2 cm×height 25 cm); the eluant was 7% ethanol in chloroform; after a forerun of 125 ml, 25 ml fractions were taken. Fractions 13-20 were combined and evaporated to furnish the title compound: yield 0.56 g (27%); 1H-nmr (CDCl3) delta ppm 1.2-2.1 (multiplet, 4H, OCHCH2CH2CH2N), 2.7-3.1 (multiplet, peaks, 4H, COCH2CH and NCH2), 3.3 (broad singlet, 1H, CH2CHNCO), 3.4 (singlet, 3H, OCH3), 4.0 (broad doublet, 1H, CHOCH3), 4.6 (broad double, 2H, CH2CH=CH2), 4.8-5.1 (multiple peaks, 2H, NCH2CO), 5.3 (triplet with fine splitting, 2H, CH2 =CH), 5.9 (octet, 1H, CH=CH2), 7.2 (singlet, 1H, thieno H), 8.0 (broad singlet, 1H, N=CH--N).

reactant | 6-chlorothieno[3,2-d]pyrimidin-4(3H)-one | 0.0043 mole, 0.80 g | ClC1=CC=2N=CNC(C2S1)=O | C6H3ClN2OS
reactant | sodium methoxide | 1.22N, 3.52 ml | C[O-].[Na+]
reactant | allyl trans-3-methoxy-2-(3-bromo-2-oxopropyl)-1-piperidinecarboxylate | 0.0056 mole, 1.86 g | CO[C@H]1[C@@H](N(CCC1)C(=O)OCC=C)CC(CBr)=O | C13H20BrNO4
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | Allyl trans-2-[3-(6-chloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate | ClC1=CC=2N=CN(C(C2S1)=O)CC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OCC=C)=O | C19H22ClN3O5S
